US08669266B2
(vi) (S)-2-({4-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-quinoline-2-carbonyl}-amino)pentanedioic acid 5-tert-butyl ester 1-methyl ester
To a solution of 4 g of (S)-2-[(4-Carboxymethoxy-quinoline-2-carbonyl)-amino]-pentanedioic acid 5-tert-butyl ester 1-methyl ester in 30 ml of DCM, 3.4 g of EDC and 3.2 g of pentafluorophenol was added and the reaction mixture was stirred for 2 h at RT. Then, 5 g of (S)-Pyrrolidine-2-carboxylic acid cyclopropylamide trifluoroacetate salt and 2 g of NEM in 10 ml of DCM was added. After 3 h the reaction mixture was diluted with water and extracted with DCM (3×150 ml). The combined organic phases were dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was purified by chromatography on silica gel eluting with a gradient of n-heptane/ethyl acetate. The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 1.8 g.

reactant | (S)-2-[(4-Carboxymethoxy-quinoline-2-carbonyl)-amino]-pentanedioic acid 5-tert-butyl ester 1-methyl ester | 4 g | COC([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC=CC=C2C(=C1)OCC(=O)O)=O | C22H26N2O8
reactant | EDC | 3.4 g
reactant | pentafluorophenol | 3.2 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | (S)-Pyrrolidine-2-carboxylic acid cyclopropylamide trifluoroacetate salt | 5 g | FC(C(=O)O)(F)F.C1(CC1)NC(=O)[C@H]1NCCC1
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (S)-2-({4-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-quinoline-2-carbonyl}-amino)pentanedioic acid 5-tert-butyl ester 1-methyl ester | COC([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC=CC=C2C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)=O | C31H40N4O8
